US06458772B1
d) 2-O-iodomethoxycarbonyl-1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)glycerol
A solution of 2-O-chloromethoxycarbonyl-1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)propane-1,2,3-triol (7.86 g, 13.5 mmol) and NaI (8.09 g 54.0 mmol) in 135 mL dry acetonitrile was refluxed at 80° C. for 4 h under N2. The reaction mixture was concentrated under vacuum, and then partitioned between 150 mL diethyl ether and 50 mL H2O. The aqueous layer was reextracted with 2×25 mL ether. The combined organic phases were washed successively with 25 mL aqueous Na2S2O3 and 50 mL brine, dried over Na2SO4, and concentrated. Flash column chromatography (silica gel, 2/1 hexane-ethyl acetate gave 8.38 g (92%) title product (alternative name: 2-iodomethoxycarbonyloxy-1,3-bis-(N-tert-butoxycarbonyl-L-valyloxy)propane or 1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propyl iodomethyl carbonate) as a white solid.

reactant | 2-O-chloromethoxycarbonyl-1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)propane-1,2,3-triol | 13.5 mmol, 7.86 g | ClCOC(=O)OC(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C25H43ClN2O11
reactant | NaI | 54.0 mmol, 8.09 g | [Na+].[I-]
solvent | acetonitrile | 135 mL | C(C)#N | C2H3N
product | 2-O-iodomethoxycarbonyl-1,3-di-O-(N-tert-butoxycarbonyl-L-valyl)glycerol | 8.38 g, 92% | ICOC(=O)OC(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C25H43IN2O11
